US07396844B1
Synthesis of 6-(pyrrolidine-1-yl)nicotinic acid
1.0 g (4.85 mol) of methyl 6-(pyrrolidine-1-yl)nicotinoate was dissolved in 10 ml of conc. hydrochloric acid and stirred at 40° C. overnight. The solvent was distilled off whereby the hydrochloride of the title compound was obtained.

reactant | methyl 6-(pyrrolidine-1-yl)nicotinoate | 4.85 mol, 1.0 g | N1(CCCC1)C1=NC=C(C(=O)OC)C=C1 | C11H14N2O2
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 6-(pyrrolidine-1-yl)nicotinic acid | N1(CCCC1)C1=NC=C(C(=O)O)C=C1 | C10H12N2O2
